Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1].[O:2]=[C:3][O:4]/[C:5]([H:6])=[C:7]\[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-2.53379193178
[H:1][O:2]/[C:3]=[C:7](/[C:5](=[O:4])[H:6])[H:8]>>[H:1][O:2][C@@:3]12[O:4][C@@:5]1([H:6])[C:7]2[H:8],0.33516235281
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:8]([H:9])(=[C:10]([H:11])[H:12])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:13][H:14],-1.22670118423
[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1],3.83637120212
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])[C:13]([H:14])([H:15])[H:16].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],3.76249723095
[C:4]#[C:5][H:6].[O:1]=[C:2]([H:3])[O:7][C:8]([H:9])([H:10])[H:11]>>[O:1][C@@:2]([H:3])([C:4]#[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11],-1.21031023739
[H:1][O:2]/[C:3]=[C:4](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:5]>>[H:1][O:2][C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.84477377551
[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:6][H:7]>>[C:5]#[C:6][H:7].[O:1][C:2]#[C:3][H:4],5.912684969319999
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][O:8][H:9]>>[H:1][C:2][C:3]([H:4])=[C:5][H:6].[O:7][O:8][H:9],3.66246525308
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3](#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],2.84282006685
[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.95220097686
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],1.7592709764
[O:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11],-2.98188925806
[C:1]#[C:2][C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][H:7].[C:8]([H:9])([H:10])[H:11],1.75131195596
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],4.51288857677
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([O:4][H:5])([C:6][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],4.87115700326
[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-1.71285916229
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.50242709271
[H:1][C:2][O:9][C:10]([H:11])([H:12])[H:13].[O:3]=[C:4][C:5]([H:6])([H:7])[H:8]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-0.482445193569
[H:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C@:6]1([H:7])[C:8]=[C:9]([H:10])[H:11],0.669671142679
[H:1][C:2][C:3]#[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:5]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.84285817419
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11],5.09927831
[H:1][C:2]([H:3])[C:4][C@:5]12[O:6][C@:7]1([H:8])[O:9]2>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])=[O:9],-1.15003229797
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1],4.56895758649
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10],-3.82245874736
[C:5]#[C:6][O:7][C:8]([H:9])[H:10].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6][O:7][C:8]([H:9])[H:10],-5.12773286716
[C:2]#[C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]#[C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-5.35690144729
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],3.5886976516400004
